US05750389
250 μl Sucrose (2 M)
It was found that the hitherto used hepes-NaOH-buffer was most suitable for the synthesis of UDP-glucose and TDP-glucose. For both enzymes, the Mops-buffer and the TES-buffer gave 60 to 80% residual activity. The commercial enzyme indicated, by contrast to the rice enzyme, in TEA-buffer, an about 30 to 40% higher residual activity. In the remaining buffers, both enzymes had a residual activity of less than 50%.

reactant | hepes NaOH | C1CN(CCN1CCO)CCS(=O)(=O)O.[OH-].[Na+]
reactant | UDP-glucose | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
reactant | TDP-glucose | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O | C16H26N2O16P2
product | Sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
